US06437009B1
N-2-Ethylhexyl DL-malimide was prepared by the reaction of 2-ethylhexyl amine with DL-malic acid. DL-Malic acid (10.327 g, 77.015 mmole) and toluene (40 mL) were weighed into a 250 mL 3-necked round-bottomed flask equipped with a teflon-coated magnetic stir bar. A Claisen adapter was placed in the center neck, a Dean-Stark trap was placed on top of the Claisen adapter, and a condenser was placed in the neck of the Dean-Stark trap. A nitrogen inlet adapter was placed on the condenser. In the left neck was placed a pressure-equalizing addition funnel containing 2-ethylhexyl amine (9.955 g, 77.02 mmole) and toluene (10 mL, added to ensure complete transfer of the amine). In the right neck was placed a rubber septum which held a thermocouple. The apparatus was purged with nitrogen for 10-15 minutes and then heated to ˜100° C.

reactant | 2-ethylhexyl amine | C(C)C(CN)CCCC | C8H19N
reactant | DL-malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | DL-Malic acid | 77.015 mmole, 10.327 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 2-ethylhexyl amine | 77.02 mmole, 9.955 g | C(C)C(CN)CCCC | C8H19N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-2-Ethylhexyl DL-malimide | CCN1C(C(O)(CC1=O)CCCCCC)=O | C12H21NO3
